output.csv
SMILES Labelled
CC(C)(CC[B:20](F)I)C[C-:10](c1ccccc1)[S+](C)(C)=O>>CC1(C)CC[B-:20](F)(I)[C:10](c2ccccc2)([S+](C)(C)=O)C1 10=20
CC(C)(CC[C-:10](c1ccccc1)[N+](C)(C)C)C[B:20](F)c1ccccc1>>CC1(C)CC[C:10](c2ccccc2)([N+](C)(C)C)[B-:20](F)(c2ccccc2)C1 10=20
CC(C)(C[C-:10](c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1)C[B:20](c1ccccc1)c1ccccc1>>CC1(C)C[C:10](c2ccccc2)([P+](c2ccccc2)(c2ccccc2)c2ccccc2)[B-:20](c2ccccc2)(c2ccccc2)C1 10=20
[H][C-:10](CCCC[B:20](Br)I)[S+](C)(C)=O>>[H][C:10]1([S+](C)(C)=O)CCCC[B-:20]1(Br)I 10=20
CC(C)(CC[B:20](Cl)Br)C[C-:10](C(C)(C)C)[N+](C)(C)C>>CC1(C)CC[B-:20](Cl)(Br)[C:10](C(C)(C)C)([N+](C)(C)C)C1 10=20
CC(C)[C-:10](CC(C)(C)C[B:20](Br)Br)[S+](C)C>>CC(C)[C:10]1([S+](C)C)CC(C)(C)C[B-:20]1(Br)Br 10=20
C[C-:10](CCCC[B:20](Cl)Br)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>C[C:10]1([P+](c2ccccc2)(c2ccccc2)c2ccccc2)CCCC[B-:20]1(Cl)Br 10=20
CC[B:20](Cl)CC(C)(C)CC[C-:10](C(C)C)[N+](C)(C)C>>CC[B-:20]1(Cl)CC(C)(C)CC[C:10]1(C(C)C)[N+](C)(C)C 10=20
CC(C)[C-:10](CC(C)(C)CC[B:20](I)c1ccccc1)[S+](C)C>>CC(C)[C:10]1([S+](C)C)CC(C)(C)CC[B-:20]1(I)c1ccccc1 10=20
[H][C-:10](CC(C)(C)C[B:20]([H])Cl)[N+](C)(C)C>>[H][C:10]1([N+](C)(C)C)CC(C)(C)C[B-:20]1([H])Cl 10=20
CC[C-:10](CCCC[B:20](F)c1ccccc1)[N+](C)(C)C>>CC[C:10]1([N+](C)(C)C)CCCC[B-:20]1(F)c1ccccc1 10=20
CC[B:20](CC(C)(C)C[C-:10](C)[N+](C)(C)C)c1ccccc1>>CC[B-:20]1(c2ccccc2)CC(C)(C)C[C:10]1(C)[N+](C)(C)C 10=20
[H][B:20](Br)CCCC[C-:10](C(C)(C)C)[N+](C)(C)C>>[H][B-:20]1(Br)CCCC[C:10]1(C(C)(C)C)[N+](C)(C)C 10=20
CC[C-:10](CCCC[B:20](Br)CC)[S+](C)(C)=O>>CC[C:10]1([S+](C)(C)=O)CCCC[B-:20]1(Br)CC 10=20
[H][B:20](CC)CCC(C)(C)C[C-:10](CC)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>[H][B-:20]1(CC)CCC(C)(C)C[C:10]1(CC)[P+](c1ccccc1)(c1ccccc1)c1ccccc1 10=20
CC[C-:10](CCC(C)(C)C[B:20](Br)I)[N+](C)(C)C>>CC[C:10]1([N+](C)(C)C)CCC(C)(C)C[B-:20]1(Br)I 10=20
C[S+](C)[C-:10](CCC[B:20](I)I)C(C)(C)C>>C[S+](C)[C:10]1(C(C)(C)C)CCC[B-:20]1(I)I 10=20
CC(C)[C-:10](CCCC[B:20](c1ccccc1)c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>CC(C)[C:10]1([P+](c2ccccc2)(c2ccccc2)c2ccccc2)CCCC[B-:20]1(c1ccccc1)c1ccccc1 10=20
CC[B:20](CC(C)(C)C[C-:10](C(C)(C)C)[S+](C)(C)=O)c1ccccc1>>CC[B-:20]1(c2ccccc2)CC(C)(C)C[C:10]1(C(C)(C)C)[S+](C)(C)=O 10=20
CC[B:20](I)CC(C)(C)C[C-:10](C(C)C)[S+](C)(C)=O>>CC[B-:20]1(I)CC(C)(C)C[C:10]1(C(C)C)[S+](C)(C)=O 10=20
CC[C-:10](CCC(C)(C)C[B:20](Br)c1ccccc1)[N+](C)(C)C>>CC[C:10]1([N+](C)(C)C)CCC(C)(C)C[B-:20]1(Br)c1ccccc1 10=20
CC(C)(CC[B:20](Cl)Cl)C[C-:10](c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>CC1(C)CC[B-:20](Cl)(Cl)[C:10](c2ccccc2)([P+](c2ccccc2)(c2ccccc2)c2ccccc2)C1 10=20
CC(C)[C-:10](CCCC[B:20](Br)I)[S+](C)C>>CC(C)[C:10]1([S+](C)C)CCCC[B-:20]1(Br)I 10=20
CC(C)(C[C-:10](C(C)(C)C)[S+](C)(C)=O)C[B:20](Br)c1ccccc1>>CC1(C)C[C:10](C(C)(C)C)([S+](C)(C)=O)[B-:20](Br)(c2ccccc2)C1 10=20
[H][C-:10](CC(C)(C)C[B:20](I)c1ccccc1)[S+](C)(C)=O>>[H][C:10]1([S+](C)(C)=O)CC(C)(C)C[B-:20]1(I)c1ccccc1 10=20
CC(C)[C-:10](CCC(C)(C)C[B:20](Cl)c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>CC(C)[C:10]1([P+](c2ccccc2)(c2ccccc2)c2ccccc2)CCC(C)(C)C[B-:20]1(Cl)c1ccccc1 10=20
CC[B:20](I)CCCC[C-:10](C(C)C)[N+](C)(C)C>>CC[B-:20]1(I)CCCC[C:10]1(C(C)C)[N+](C)(C)C 10=20
[H][B:20](F)CCCC[C-:10](C(C)C)[S+](C)(C)=O>>[H][B-:20]1(F)CCCC[C:10]1(C(C)C)[S+](C)(C)=O 10=20
CC(C)[C-:10](CC(C)(C)CC[B:20](F)Cl)[S+](C)(C)=O>>CC(C)[C:10]1([S+](C)(C)=O)CC(C)(C)CC[B-:20]1(F)Cl 10=20
C[N+](C)(C)[C-:10](C)CCCC[B:20](Br)c1ccccc1>>C[N+](C)(C)[C:10]1(C)CCCC[B-:20]1(Br)c1ccccc1 10=20
CC[B:20](I)CCC(C)(C)C[C-:10](C(C)(C)C)[S+](C)(C)=O>>CC[B-:20]1(I)CCC(C)(C)C[C:10]1(C(C)(C)C)[S+](C)(C)=O 10=20
C[S+](C)(=O)[C-:10](C)CCCC[B:20](Br)I>>C[S+](C)(=O)[C:10]1(C)CCCC[B-:20]1(Br)I 10=20
C[S+](C)[C-:10](CCC[B:20](Cl)Cl)c1ccccc1>>C[S+](C)[C:10]1(c2ccccc2)CCC[B-:20]1(Cl)Cl 10=20
CC[B:20](Br)CC(C)(C)C[C-:10](C(C)(C)C)[N+](C)(C)C>>CC[B-:20]1(Br)CC(C)(C)C[C:10]1(C(C)(C)C)[N+](C)(C)C 10=20
[H][B:20](Br)CCCC[C-:10](C(C)(C)C)[S+](C)(C)=O>>[H][B-:20]1(Br)CCCC[C:10]1(C(C)(C)C)[S+](C)(C)=O 10=20
CC(C)(CC[B:20](Br)I)C[C-:10](C(C)(C)C)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>CC1(C)CC[B-:20](Br)(I)[C:10](C(C)(C)C)([P+](c2ccccc2)(c2ccccc2)c2ccccc2)C1 10=20
CC[B:20](Br)CC(C)(C)C[C-:10](C)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>CC[B-:20]1(Br)CC(C)(C)C[C:10]1(C)[P+](c1ccccc1)(c1ccccc1)c1ccccc1 10=20
C[N+](C)(C)[C-:10](CCC[B:20](Cl)Cl)c1ccccc1>>C[N+](C)(C)[C:10]1(c2ccccc2)CCC[B-:20]1(Cl)Cl 10=20
CC[C-:10](CCCC[B:20](F)CC)[N+](C)(C)C>>CC[C:10]1([N+](C)(C)C)CCCC[B-:20]1(F)CC 10=20
[H][B:20](CC)CCC[C-:10](c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1>>[H][B-:20]1(CC)CCC[C:10]1(c1ccccc1)[P+](c1ccccc1)(c1ccccc1)c1ccccc1 10=20
[H][C-:10](CCC(C)(C)C[B:20](Cl)c1ccccc1)[N+](C)(C)C>>[H][C:10]1([N+](C)(C)C)CCC(C)(C)C[B-:20]1(Cl)c1ccccc1 10=20
CC[B:20](CCC(C)(C)C[C-:10](C(C)(C)C)[P+](c1ccccc1)(c1ccccc1)c1ccccc1)c1ccccc1>>CC[B-:20]1(c2ccccc2)CCC(C)(C)C[C:10]1(C(C)(C)C)[P+](c1ccccc1)(c1ccccc1)c1ccccc1 10=20
[H][C-:10](CCCC[B:20](F)I)[N+](C)(C)C>>[H][C:10]1([N+](C)(C)C)CCCC[B-:20]1(F)I 10=20
[H][B:20](I)CCCC[C-:10](C)[S+](C)(C)=O>>[H][B-:20]1(I)CCCC[C:10]1(C)[S+](C)(C)=O 10=20
